US05548045
The same procedure as in Example 23 was repeated, except that the organoaluminum compounds used in Example 23 were replaced by triisobutylaluminum alone and the amount of water added was changed so as to give a water/triisobutylaluminum molar ratio of 1.0. The results of measurement are shown in Table 4.

reactant | triisobutylaluminum | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | water | O | H2O
product | water triisobutylaluminum | O.C(C(C)C)[Al](CC(C)C)CC(C)C | InChI=1S/3C4H9.Al.H2O/c3*1-4(2)3;;/h3*4H,1H2,2-3H3;;1H2
